US05654316
Beta-[2-[(phenyl)methylamino]-2-oxoethyl]benzenepropanoic acid
3-Phenylglutaric anhydride (8.0 g) in CH2Cl2 (100 mL) at 0° C. was treated sequentially with N-methylaniline (5.63 g), triethylamine (5.32 g) and N,N-dimethylaminopyridine (1.0 g). The mixture was stirred at 0° C. for two hours then allowed to warm to room temperature and stirred for 12 hours. The reaction mixture was washed with 1N HCl (2×50 mL) and water (100 mL). The organic layers were dried over MgSO4, filtered and concentrated to afford the title compound (11.5 g).

reactant | 3-Phenylglutaric anhydride | 8.0 g | C1(=CC=CC=C1)C1CC(=O)OC(C1)=O | C11H10O3
reactant | N-methylaniline | 5.63 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 5.32 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Beta-[2-[(phenyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 11.5 g | C1(=CC=CC=C1)CNC(CC(CC(=O)O)C1=CC=CC=C1)=O | C18H19NO3
